US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole
Triphenylphosphine (0.87 g) was dissolved in tetrahydrofuran (10 ml), and diethyl azodicarboxylate (0.57 g) was added dropwise to the solution under ice-cooling with stirring, and the mixture was stirred at the same temperature for 10 minutes. 3-Hydroxy-5-phenylisoxazole (0.48 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.48 g) were added to the reaction mixture, and the resulting mixture was stirred under ice-cooling for 10 minutes and at room temperature for 24 hours. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent: cyclohexane/ethyl acetate=4/1) and was crystallized from isopropyl ether to obtain the title compound (0.63 g, 69%) as colorless crystals.

reactant | Triphenylphosphine | 0.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.57 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-Hydroxy-5-phenylisoxazole | 0.48 g | OC1=NOC(=C1)C1=CC=CC=C1 | C9H7NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.48 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.63 g, 69% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C16H20N2O4
